US07332485B2
1-(Benzyloxyimino-Methyl)-4,4-Dimethyl-Cyclohexanecarboxylic Acid
A mixture of 1-(benzyloxyimino-methyl)-4,4-dimethyl-cyclohexanecarboxylic acid methyl ester (1.83 g, 6.04 mmol) and lithium hydroxide monohydrate (2.53 g, 60.4 mmol) in THF (60 mL) and water (30 mL) was heated at 60° C. for 18 h. The reaction mixture was acidified to pH 5 with 3N aqueous HCl and was extracted with dichloromethane (50 mL×6). The combined organic layers were dried (MgSO4) and were evaporated in vacuo to yield the title compound as a pale yellow oil. (1.47 g, 84%). MH+290.

reactant | 1-(benzyloxyimino-methyl)-4,4-dimethyl-cyclohexanecarboxylic acid methyl ester | 6.04 mmol, 1.83 g | COC(=O)C1(CCC(CC1)(C)C)C=NOCC1=CC=CC=C1 | C18H25NO3
reactant | lithium hydroxide monohydrate | 60.4 mmol, 2.53 g | O.[OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 1-(Benzyloxyimino-Methyl)-4,4-Dimethyl-Cyclohexanecarboxylic Acid | C(C1=CC=CC=C1)ON=CC1(CCC(CC1)(C)C)C(=O)O | C17H23NO3
